US09035062B2
Step 4: (2S,5S)-1-Benzyl 2-tert-butyl 5-hydroxypiperidine-1,2-dicarboxylate (A)
A solution of 14.55 g (43.66 mmol) of (S)-1-benzyl 2-tertbutyl 5-oxopiperidine-1,2-dicarboxylate in ethanol (437 mL) was ice-cooled, and 1.65 g (43.62 mmol) of sodium borohydride was added, followed by allowing to react under ice cooling for 20 minutes. Saturated aqueous ammonium chloride solution was added dropwise to the reaction mixture until effervescence was quenched, and the generated salt was dissolved with the addition of water. The organic solvent of the mixture was distilled off under reduced pressure, and the aqueous layer of the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, followed by drying over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resulting residue was applied to silica gel column chromatography (hexane/ethyl acetate=3/1→2/1) to afford 13.35 g of the title compound as a colorless oil (yield 91%). Enantiomeric excess: 98.8% ee (CHIRALPAK AD-H, 4.6×150 mm, UV 210 nm, hexane/ethanol=4/1, flow rate 1 mL/min., retention time 9.1 min.).

reactant | (S)-1-benzyl 2-tertbutyl 5-oxopiperidine-1,2-dicarboxylate | 43.66 mmol, 14.55 g | O=C1CC[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H23NO5
reactant | sodium borohydride | 43.62 mmol, 1.65 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 437 mL | C(C)O | C2H6O
product | (2S,5S)-1-Benzyl 2-tert-butyl 5-hydroxypiperidine-1,2-dicarboxylate | 13.35 g, yield 91% | O[C@H]1CC[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25NO5
